US06750348B1
To a stirred solution of 5-azabenzimidazole (0.300 g, 2.51 mmol) in anhydrous DMF (5 mL) was added N,N-diisopropylethylamine (0.66 mL, 3.80 mmol) followed by 2-(trimethylsilyl)ethoxymethyl chloride (0.54 mL, 3.02 mmol). The resultant solution was heated to 80° C. for 2 h then cooled to room temperature. The reaction mixture was poured into brine (20 mL) and diluted with ethyl acetate (30 mL). The phases were separated and the aqueous phase was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with brine (3×5 mL), dried (MgSO4), and concentrated under reduced pressure. Purification of the crude brown oil through a plug of silica gel (CH2Cl2/MeOH, 9:1) provided the 1-(2-trimethylsilylethoxymethyl)-5-azabenzimidazole (0.586 g, 93%) as an orange oil.

reactant | 5-azabenzimidazole | 2.51 mmol, 0.300 g | N1=CNC2=C1C=CN=C2 | C6H5N3
reactant | N,N-diisopropylethylamine | 3.80 mmol, 0.66 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 3.02 mmol, 0.54 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-trimethylsilylethoxymethyl)-5-azabenzimidazole | 0.586 g, 93% | C[Si](CCOCN1C=NC2=C1C=CN=C2)(C)C | C12H19N3OSi
